US09446034B2
To a degassed solution of 2,5-dichloro-4-iodopyridine (4.5 g, 16.43 mmol), 2-amino-5-chlorobenzonitrile (2.507 g, 16.43 mmol) and potassium triphosphate (10.46 g, 49.3 mmol) in 1,4-dioxane (60 ml) stirred under nitrogen at the room temperature was added DPEPhos (0.708 g, 1.314 mmol) and palladium acetate (0.148 g, 0.657 mmol). The reaction mixture was stirred at reflux for 18 hr. The reaction mixture was filtered. The reaction mixture was evaporated. Ether (50 ml) was added and the solid was filtered. 5-chloro-2-[(2,5-dichloro-4-pyridinyl)amino]benzonitrile (1.8 g, 5.43 mmol, 33.0% yield) was isolated as orange solid. 1H NMR (400 MHz, DMSO-d6) ppm 6.63 (s, 1 H) 7.52 (d, J=8.59 Hz, 1 H) 7.81 (dd, J=8.59, 2.53 Hz, 1 H) 8.09 (d, J=2.53 Hz, 1 H) 8.24 (s, 1 H) 9.06 (br. s., 1 H); HPLC Rt=3.53 min, MS (ESI): 298.0, 299.9 [M+H]+.

reactant | 2,5-dichloro-4-iodopyridine | 16.43 mmol, 4.5 g | ClC1=NC=C(C(=C1)I)Cl | C5H2Cl2IN
reactant | 2-amino-5-chlorobenzonitrile | 16.43 mmol, 2.507 g | NC1=C(C#N)C=C(C=C1)Cl | C7H5ClN2
reactant | potassium triphosphate | 49.3 mmol, 10.46 g | [O-]P([O-])(=O)OP(=O)([O-])OP(=O)([O-])[O-].[K+].[K+].[K+].[K+].[K+]
reactant | DPEPhos | 1.314 mmol, 0.708 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.657 mmol, 0.148 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-chloro-2-[(2,5-dichloro-4-pyridinyl)amino]benzonitrile | 5.43 mmol, 1.8 g, 33.0% yield | ClC=1C=CC(=C(C#N)C1)NC1=CC(=NC=C1Cl)Cl | C12H6Cl3N3
